US05157133
Preparation of 1-acetoxy-3-methyl-1,3-butadiene
Prenal (0.332 mol) was run gradually into isopropenyl acetate (0.532 mol) in which paratoluenesulphonic acid (1% by weight) had been dissolved. The acetone was distilled off as it was formed. The temperature of the mixture was 93°-94° C. at the beginning and 118° C. after heating for 1 hour 50 minutes. The 1-acetoxy-3-methylbutadiene was then purified by distillation. The boiling point of the product was 48°-52° C./13 mm Hg.

reactant | Prenal | 0.332 mol | CC(=CC=O)C | C5H8O
reactant | isopropenyl acetate | 0.532 mol | C(C)(=O)OC(=C)C | C5H8O2
reactant | paratoluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-acetoxy-3-methyl-1,3-butadiene | C(C)(=O)OC=CC(=C)C | C7H10O2
